US08114868B2
4-chloro-2-phenylbutan-2-ol was prepared from 3-chloro-1-phenylpropan-1-one and methylmagnesium bromide following a procedure analogous to that described in

reactant | 3-chloro-1-phenylpropan-1-one | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | methylmagnesium bromide | C[Mg]Br
product | 4-chloro-2-phenylbutan-2-ol | ClCCC(C)(O)C1=CC=CC=C1 | C10H13ClO
